US04179452
To the solution of 3α,6α-dihydroxy-5β-cholestan-24-one (2.6 g) in methanol (200 ml) was added sodium borohydride (2 g) and stirred for one hour under cooling with ice. After decomposition of excess sodium borohydride with aqueous solution of acetic acid, the mixture was evaporated to reduce the volume to about 100 ml and the residue was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and evaporated to give 2.0 g of 3α,6α,24-trihydroxy-5β-cholestane having a melting point of 169°-173° C. after recrystallization from chloroform.

reactant | 3α,6α-dihydroxy-5β-cholestan-24-one | 2.6 g | O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C27H46O3
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 3α,6α,24-trihydroxy-5β-cholestane | 2.0 g | O[C@H]1C[C@H]2[C@H](C[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)C)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C27H48O3
